US07767675B2
Step 4. 2-(4-Fluorophenyl)-7-[1-(4-methoxyphenyl)cyclopropyl]imidazo[1,2-b]-[1,2,4]-triazine
A mixture of 6-(4-fluorophenyl)-1,2,4-triazin-3-amine (20.1 mg, 0.106 mmol) and chloro[1-(4-methoxyphenyl)cyclopropyl]acetaldehyde (53 mg, 0.24 mmol) in isopropyl alcohol (0.6 mL) was heated to 90° C. overnight. After cooling, the mixture was diluted with methanol and was purified by mass-guided RP-HPLC to afford the desired product. LCMS: (M+H)=361.1.

reactant | 6-(4-fluorophenyl)-1,2,4-triazin-3-amine | 0.106 mmol, 20.1 mg | FC1=CC=C(C=C1)C1=CN=C(N=N1)N | C9H7FN4
reactant | chloro[1-(4-methoxyphenyl)cyclopropyl]acetaldehyde | 0.24 mmol, 53 mg | ClC(C=O)C1(CC1)C1=CC=C(C=C1)OC | C12H13ClO2
solvent | isopropyl alcohol | 0.6 mL | C(C)(C)O | C3H8O
solvent | methanol | CO | CH4O
product | 2-(4-Fluorophenyl)-7-[1-(4-methoxyphenyl)cyclopropyl]imidazo[1,2-b]-[1,2,4]-triazine | FC1=CC=C(C=C1)C=1C=NC=2N(N1)C(=CN2)C2(CC2)C2=CC=C(C=C2)OC | C21H17FN4O
